US05597918
To a suspension of 1.5 g of 8-(2-acetoxyethyl) -4,4a, 5,6-tetrahydro-2-(4-methylphenyl)thieno-[2,3-h]cinnolin-3(2H)-one in 50 ml of methanol was added 5 ml of aqueous solution of 0.7 g of potassium carbonate under ice-cooling. The mixture was stirred for an hour, and poured into water and then extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resulting solid was recrystallized from a mixed solvent of chloroform and ethanol to give 1.3 g of 4,4a,5,6-tetrahydro-8-(2-hydroxy-ethyl)-2-(4-methylphenyl)thieno-[2,3-h]cinnolin-3(2H)-one as a white powder, melting at 159°-160° C.

reactant | 8-(2-acetoxyethyl) -4,4a, 5,6-tetrahydro-2-(4-methylphenyl)thieno-[2,3-h]cinnolin-3(2H)-one | 1.5 g | C(C)(=O)OCCC1=CC2=C(CCC3CC(N(N=C23)C2=CC=C(C=C2)C)=O)S1 | C21H22N2O3S
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 4,4a,5,6-tetrahydro-8-(2-hydroxy-ethyl)-2-(4-methylphenyl)thieno-[2,3-h]cinnolin-3(2H)-one | 1.3 g | OCCC1=CC2=C(CCC3CC(N(N=C23)C2=CC=C(C=C2)C)=O)S1 | C19H20N2O2S
